US05238908
b. Methyl 2,4-dinitro-5-fluorophenoxyacetate
To a solution of 14.5 g (63 mmol) methyl 5-fluoro-2-nitrophenoxyacetate in 17 ml conc. sulfuric acid (H2SO4) at 8° C. was added slowly via an addition funnel a mixture of 5.0 ml (76 mmol) of 70% nitric acid and 5.0 ml of conc. H2SO4. After addition was complete, the reaction was stirred an additional 1 hour at 15° C. The reaction mixture was poured into 150 ml of 1:1 ethyl acetate/water and the resulting layers were separated. The aqueous phase was extracted with ethyl acetate (2×60 ml) and the combined organics were dried (Na2SO4) and concentrated in vacuo to give 17.2 g (98% yield) of the desired nitrated product as a yellow solid.

reactant | methyl 5-fluoro-2-nitrophenoxyacetate | 63 mmol, 14.5 g | FC=1C=CC(=C(OCC(=O)OC)C1)[N+](=O)[O-] | C9H8FNO5
reactant | nitric acid | 76 mmol, 5.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | ethyl acetate water | 150 ml | C(C)(=O)OCC.O
solvent | sulfuric acid | 17 ml | S(O)(O)(=O)=O | H2O4S
solvent | H2SO4 | 5.0 ml | OS(=O)(=O)O | H2O4S
product | Methyl 2,4-dinitro-5-fluorophenoxyacetate | 98% yield | [N+](=O)([O-])C1=C(OCC(=O)OC)C=C(C(=C1)[N+](=O)[O-])F | C9H7FN2O7
